US07087601B2
2-[4-(5-chloropyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole (58 mg, 0.17 mmol), morpholine (18 μL, 0.21 mmol), Pd(OAc)2 (0.38 mg, 0.0017 mmol), 1,1′-biphenyl-2-yl[di(tert-butyl)]phosphine (1.0 mg, 0.0034 mmol), and NaOtBu (23 mg, 0.24 mmol) were combined in a sealable tube evacuated and backfilled with argon. Toluene (800 μL) was added and the mixture was degassed with a stream of argon for 5 min. The tube was sealed and the mixture was heated to 110° C. for 18 h. Crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using an EtOAc/hexanes gradient to afford 2-[3-methoxy-4-(5-morpholin-4-ylpyridin-2-yl)phenyl]-1,3-benzoxazole as a yellow solid. The freebase was dissolved in Et2O/CH2Cl2 and treated with 1N HCl in Et2O. Resulting yellow solid was filtered and dried under high vacuum to afford the desired 2-[3-methoxy-4-(5-morpholin-4-ylpyridin-2-yl)phenyl]-1,3-benzoxazole hydrochloride as a yellow solid: 1H NMR (CD3OD, 300 MHz) δ 8.33–8.30 (d, 1H), 8.20–8.09 (m, 2H), 8.08–8.02 (m, 2H), 7.87–7.77 (m, 2H), 7.75–7.71 (m, 1H), 7.53–7.42 (m, 2H), 4.10 (s, 3H), 3.89 (t, 4H), 3.49–3.47 (t, 4H). MS (ESI) 388 (M+H)+.

reactant | 2-[4-(5-chloropyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | 0.17 mmol, 58 mg | ClC=1C=CC(=NC1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13ClN2O2
reactant | morpholine | 0.21 mmol, 18 μL | N1CCOCC1 | C4H9NO
reactant | 1,1′-biphenyl-2-yl[di(tert-butyl)]phosphine | 0.0034 mmol, 1.0 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | NaOtBu | 0.24 mmol, 23 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.0017 mmol, 0.38 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[3-methoxy-4-(5-morpholin-4-ylpyridin-2-yl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1C1=NC=C(C=C1)N1CCOCC1)C=1OC2=C(N1)C=CC=C2 | C23H21N3O3
